US09315491B2
[4-(4-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-urea
Trimethylsilyl isocyanate (136 mg, 5 eq.) was added to a stirred solution of 4-(4-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine (80 mg, 0.237 mmol.) in THF (2.0 ml) and the mixture was reacted to reflux for 16 hrs. The reaction mixture was extracted with EA and washed with brine. The crude was purified by Chromatography (Hexane/EtOAc 1:1) to give a product 28.1 mg (31.2%).

reactant | Trimethylsilyl isocyanate | 136 mg, 5 eq. | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | 4-(4-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine | 0.237 mmol, 80 mg | ClC1=NC(=NC(=C1SC)N1CCOCC1)C1=CC=C(C=C1)N | C15H17ClN4OS
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
product | [4-(4-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-urea | 28.1 mg, 31.2% | ClC1=NC(=NC(=C1SC)N1CCOCC1)C1=CC=C(C=C1)NC(=O)N | C16H18ClN5O2S
